US07507748B2
N-(4-tert-Butyl-phenyl)-2-([1,7]naphthyridin-2-ylamino)-benzamide
2-Chloro-[1,7]naphthyridine (100 mg, 0.61 mmol), 2-amino-N-(4-tert-butyl-phenyl)-benzamide (164 mg, 0.61 mmol), Pd2(dba)3 (6 mg, 0.006 mmol), (2′-Dicyclohexylphosphanyl-biphenyl-2-yl)-dimethyl-amine (6 mg, 0.015 mmol), and 1M solution of LiN(TMS)2 in THF (1.83 mL), 1.83 mmol) were added to a reaction vessel. The vessel was sealed and the reaction was stirred at 70° C. for 24 h. The mixture was cooled to RT, and solvent was removed under vacuum. The crude was purified by flash column chromatography (gradiant, 0 to 100% EtoAC/Hexane) to give the product as tan solid. MS (ES−): 397.0 (M+H)+. Calc'd for C25H24N4O—396.20.

reactant | 2-Chloro-[1,7]naphthyridine | 0.61 mmol, 100 mg | ClC1=NC2=CN=CC=C2C=C1 | C8H5ClN2
reactant | 2-amino-N-(4-tert-butyl-phenyl)-benzamide | 0.61 mmol, 164 mg | NC1=C(C(=O)NC2=CC=C(C=C2)C(C)(C)C)C=CC=C1 | C17H20N2O
reactant | (2′-Dicyclohexylphosphanyl-biphenyl-2-yl)-dimethyl-amine | 0.015 mmol, 6 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | LiN(TMS)2 | [Li]N([Si](C)(C)C)[Si](C)(C)C
solvent | THF | 1.83 mL | C1CCOC1 | C4H8O
catalyst | Pd2(dba)3 | 0.006 mmol, 6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(4-tert-Butyl-phenyl)-2-([1,7]naphthyridin-2-ylamino)-benzamide | C(C)(C)(C)C1=CC=C(C=C1)NC(C1=C(C=CC=C1)NC1=NC2=CN=CC=C2C=C1)=O | C25H24N4O
